US06359163B2
The operation was performed for 80 hours in the same apparatuses and procedure as in Example 1 except that butyl allophanate was cooled to 5° C. to deposit in a settling vessel equipped in a lower portion of condenser of distillation column 18 and only butanol was returned to reactor 1 via conduit pipe 22. But, in order to remove butyl allophanate, procedures to withdraw butyl allophanate from the settling vessel every one hour and filter out it from butanol became necessary. The feed rate of urea in a steady state was 73.3 mol/hr, whereas the production rate of dibutyl carbonate to be obtained via reaction liquid withdrawing pipe 14 was 71.1 mol/hr (97.0 mol % to fed urea).

reactant | butyl allophanate | C(NC(=O)N)(=O)OCCCC | C6H12N2O3
solvent | butanol | C(CCC)O | C4H10O
product | dibutyl carbonate | C(OCCCC)(OCCCC)=O | C9H18O3
